US04216158
Preparation of 2,6-di-tert.-butyl-4-isobutylidene-2,5-cyclohexadien-one:
277 g (0.5 mol) of bis-[3,5-di-tert.-butyl-4-hydroxy-(α-isopropyl)-benzyl] sulphide, 1,000 ml of xylene and 200 g of basic lead carbonate are heated to the boil for 5 hours using a water separator, 10 ml of water being separated off. The inorganic constituents are filtered off from the yellow xylene solution and the filtrate is evaporated to dryness in vacuo. On cooling, the residue crystallises to give a yellow crystal mass.

reactant | bis-[3,5-di-tert.-butyl-4-hydroxy-(α-isopropyl)-benzyl] sulphide | 0.5 mol, 277 g | C(C)(C)(C)C=1C=C(C(C(C)C)SC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C(C)C)C=C(C1O)C(C)(C)C | C36H58O2S
reactant | xylene | 1,000 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | lead carbonate | 200 g | C([O-])([O-])=O.[Pb+2]
solvent | water | 10 ml | O | H2O
product | 2,6-di-tert.-butyl-4-isobutylidene-2,5-cyclohexadien-one | C(C)(C)(C)C=1C(C(=CC(C1)=CC(C)C)C(C)(C)C)=O | C18H28O
